### PR TITLE
Define ab_biprod, ab_pushout and prove recursion principles

### PR DESCRIPTION
**Pull request by jarlg**
Implements pushouts of abelian groups as quotients of the (bi)product in AbGroups/AbPushout.v. In order to do this, biproducts of abelian groups were added to AbGroups/AbelianGroup.v along with their recursion principle. The corecursion principle for `ab_biprod` is that of coproducts of groups (`grp_prod`), so this was added to Groups/Group.v.

Other minor things:
- Add the constant group homomorphism as `grp_homo_const` in Groups/Group.v.
- Add the negation automorphism of an abelian group as `ab_homo_negation` in AbGroups/AbelianGroup.v.
- The computation rule `grp_quotient_rec_beta` proved useful, so it was factored out of `equiv_grp_quotient_ump`.

### CODE REVIEW

File: theories/Algebra/AbGroups/AbelianGroup.v [hunk 1]
```diff
@@ -166,3 +166,116 @@ Proof.
...
+Definition ab_biprod (A B : AbGroup) : AbGroup.
+Proof.
+  apply (Build_AbGroup (grp_prod A B) _ _ _).
+  srapply Build_IsAbGroup.
+  intros [a b] [a' b'].
+  apply path_prod; simpl; apply commutativity.
+Defined.
+
+Definition ab_biprod_i1 {A B : AbGroup} : A $-> ab_biprod A B := grp_prod_i1.
+Definition ab_biprod_i2 {A B : AbGroup} : B $-> ab_biprod A B := grp_prod_i2.
```
Comment (Alizter) [inline theories/Algebra/AbGroups/AbelianGroup.v:180]: I would call these `ab_biprod_inl` and `ab_biprod_inr` to better match with `sum` and `Pushout`.

File: theories/Algebra/AbGroups/AbelianGroup.v [hunk 2]
```diff
@@ -166,3 +166,116 @@ Proof.
   apply grp_iso_quotient_normal.
 Defined.
 
+(** ** Biproducts of abelian groups *)
+
+Definition ab_biprod (A B : AbGroup) : AbGroup.
+Proof.
+  apply (Build_AbGroup (grp_prod A B) _ _ _).
```
Comment (Alizter) [inline theories/Algebra/AbGroups/AbelianGroup.v:173]: `Build_AbGroup'` is probably the constructor you want here.

File: theories/Algebra/AbGroups/AbelianGroup.v [hunk 3]
```diff
@@ -166,3 +166,116 @@ Proof.
...
+    rewrite <- (associativity _ (f a') _).
+    rewrite (commutativity (f a') _).
+    rewrite (associativity _ (g b) _).
+    exact (associativity _ (f a') _)^.
+Defined.
+
+Definition ab_biprod_p1 {A B : AbGroup} : ab_biprod A B $-> A
+  := ab_biprod_rec grp_homo_id grp_homo_const.
+
+Definition ab_biprod_p2 {A B : AbGroup} : ab_biprod A B $-> B
```
Comment (Alizter) [inline theories/Algebra/AbGroups/AbelianGroup.v:202]: Similarly to `ab_biprod_i1` I would call these `ab_biprod_pr1`.

File: theories/Algebra/AbGroups/AbelianGroup.v (hunk 2 above)
Comment (jdchristensen) [reply theories/Algebra/AbGroups/AbelianGroup.v:173]: (And no need for the `_ _ _` when using `apply`.)

File: theories/Algebra/AbGroups/AbelianGroup.v (hunk 1 above)
Comment (jarlg) [reply theories/Algebra/AbGroups/AbelianGroup.v]: Yep, thanks!

File: theories/Algebra/AbGroups/AbPushout.v [hunk 4]
```diff
@@ -0,0 +1,104 @@
...
+  apply (equiv_ap' (equiv_grp_quotient_ump (G:=ab_biprod B C) N Y)^-1%equiv _ _)^-1.
+  srapply path_sigma_hprop.
+  (* The goal is definitionally equivalent to:
+
+    ab_pushout_rec
+       (phi $o ab_pushout_inl) (phi $o ab_pushout_inr)
+       (fun a : A => ap phi (ab_pushout_commsq a)) $o grp_quotient_map
+       =  phi $o grp_quotient_map
+
+  However, Coq struggles to do this simplification. *)
```
Comment (Alizter) [inline theories/Algebra/AbGroups/AbPushout.v:74]: This is something I've noticed before. I think it is because I made the axiom fields of the Group record opaque which is causing some headache. If I hadn't done this however, there would be a lot of noise unfolding. I am not currently sure how to fix it but I will make it an issue and look into it. For now, if you want to change the goal to one that is definitionally equal use the `change` tactic:
```coq
change (  ab_pushout_rec
       (phi $o ab_pushout_inl) (phi $o ab_pushout_inr)
       (fun a : A => ap phi (ab_pushout_commsq a)) $o grp_quotient_map
       =  phi $o grp_quotient_map).
```

**Comment by jdchristensen** [comment]
LGTM.

File: theories/Algebra/AbGroups/AbPushout.v [hunk 5]
```diff
@@ -0,0 +1,104 @@
...
+  refine (grp_quotient_rec_beta N Y _ _ @ _).
+  apply equiv_path_grouphomomorphism; intro bc.
+  exact (ab_biprod_rec_beta' (phi $o grp_quotient_map) bc).
+Defined.
+
+Theorem isequiv_ab_pushout_rec `{Funext} {A B C Y : AbGroup}
```
Comment (Alizter) [inline theories/Algebra/AbGroups/AbPushout.v:80]: Perhaps this should be a global instance?

File: theories/Algebra/AbGroups/AbelianGroup.v [hunk 6]
```diff
@@ -166,3 +166,115 @@ Proof.
...
+            (a : A $-> Y) (b : B $-> Y)
+  : (ab_biprod_rec a b) $o ab_biprod_inr = b.
+Proof.
+  apply equiv_path_grouphomomorphism.
+  intro y; simpl.
+  rewrite (grp_homo_unit a).
+  exact (left_identity (b y)).
+Defined.
+
+Theorem isequiv_ab_biprod_rec `{Funext} {A B Y : AbGroup}
```
Comment (Alizter) [inline theories/Algebra/AbGroups/AbelianGroup.v:251]: Global Instance?

File: theories/Algebra/AbGroups/AbPushout.v (hunk 4 above)
Comment (jarlg) [reply theories/Algebra/AbGroups/AbPushout.v:74]: Oh, that's nice! Thanks, I didn't know about `change`.

File: theories/Algebra/AbGroups/AbPushout.v (hunk 5 above)
Comment (jarlg) [reply theories/Algebra/AbGroups/AbPushout.v:80]: I'm happy to do that, but I'm not familiar with the motivation. Could you briefly explain? I had the same question for `isequiv_ab_pullback_corec` previously.

Comment (Alizter) [reply theories/Algebra/AbGroups/AbPushout.v:80]: Well partly, it allows us to write `ab_pushout_rec^-1` without having to go find the specific instances where it is invertible.

Comment (jarlg) [reply theories/Algebra/AbGroups/AbPushout.v:80]: Do you mean `ab_pushout_rec_uncurried^-1`? I've changed the implicit arguments to make this usage more feasible, so you can now write e.g.  `(ab_pushout_rec_uncurried f g Y)^-1`.

Comment (Alizter) [reply theories/Algebra/AbGroups/AbPushout.v:80]: My IsEquiv comments aren't that essential really, I will merge this as is I think.

**Comment by Alizter** [comment]
LGTM are you happy with merging this?

**Comment by jarlg** [comment]
Give me a second, I'll push once more.

**Comment by jarlg** [comment]
Happy with it now!

**Comment by Alizter** [comment]
Thanks for the additions!
